US06800629B2
While keeping 285 ml of 97% sulfuric acid at 5-12° C. by cooling it with ice, 28.5 g of 3-amino-6-fluoro-2-pyrazinecarboxamide was added thereto to form a uniform solution. After adding 18.9 g of sodium nitrite to the solution at 5-12° C., the mixture thus obtained was stirred for 1.5 hours while cooling it with ice. While keeping the reaction mixture at a temperature not exceeding 10° C., the reaction mixture was dropwise added to 1.4 L of ice water, and the mixture thus formed was extracted first with one 850 mL portion and then two 200 mL portions of ethyl acetate. The organic layers thus obtained were united, 400 mL of water was added, then 160 mL of saturated aqueous solution of sodium hydrogen carbonate was added, pH was adjusted to 3.0, and the organic layer was separated. The organic layer thus obtained was washed with saturated aqueous solution of sodium chloride and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was washed with a mixture of diisopropyl ether and ethyl acetate to obtain 22.4 g of 6-fluoro-3-hydroxy-2-pyrazinecarboxamide as a solid product.

reactant | sulfuric acid | 285 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-amino-6-fluoro-2-pyrazinecarboxamide | 28.5 g | NC=1C(=NC(=CN1)F)C(=O)N | C5H5FN4O
reactant | sodium nitrite | 18.9 g | N(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 400 mL | O | H2O
product | 6-fluoro-3-hydroxy-2-pyrazinecarboxamide | 22.4 g | FC1=CN=C(C(=N1)C(=O)N)O | C5H4FN3O2
